US09376436B2
A solution of 5-ethoxy-2,3-difluoro-phenol (which may be prepared as described in Description 61) (270 mg, 1.55 mmol) in DCM (6 mL) was cooled to 0° C. and treated with pyridine (0.62 mL, 7.75 mmol) followed by trifluoromethane-sulfonic anhydride (0.31 mL, 1.86 mmol). The mixture was stirred for 10 mins at 0° C. and then allowed to warm to room temperature. After 30 minutes, DCM (50 ml) and 10% aq. citric acid (25 ml) were added and the product was extracted into DCM. The aqueous layer was re-extracted with DCM and the combined organic layers were dried (Na2SO4) and evaporated. Chromatography (0-100% DCM in isohexane) gave (5-ethoxy-2,3-difluoro-phenyl)trifluoromethanesulfonate (D62) as a clear oil (430 mg);

reactant | 5-ethoxy-2,3-difluoro-phenol | 1.55 mmol, 270 mg | C(C)OC=1C=C(C(=C(C1)O)F)F | C8H8F2O2
reactant | pyridine | 7.75 mmol, 0.62 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane-sulfonic anhydride | 1.86 mmol, 0.31 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | citric acid | 25 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (5-ethoxy-2,3-difluoro-phenyl)trifluoromethanesulfonate | 430 mg | C(C)OC=1C=C(C(=C(C1)OS(=O)(=O)C(F)(F)F)F)F | C9H7F5O4S
